US07795453B2
Methyl 7-bromo-1-benzothiophene-2-carboxylate
Under an argon atmosphere, 8.2 g (205.7 mmol) of sodium hydride (60% in liquid paraffin) are introduced into 300 ml of absolute DMSO. At room temperature, 16.0 g (150.9 mmol) of methyl mercaptoacetate are slowly added dropwise to the reaction mixture, which is stirred at room temperature until hydrogen evolution ceases (about 15 min). A solution of 27.8 g (137.1 mmol) of 3-bromo-2-fluorobenzaldehyde in 50 ml of absolute DMSO is added at room temperature to the reaction mixture. The latter is stirred until the reaction is complete and then poured into ice-water. The resulting precipitate is filtered off with suction and dried in vacuo at 40° C. overnight. 20.57 g of a mixture of the title compound and of the corresponding acid (approx. 1:1) are obtained.

reactant | sodium hydride | 205.7 mmol, 8.2 g | [H-].[Na+]
reactant | methyl mercaptoacetate | 150.9 mmol, 16.0 g | SCC(=O)OC | C3H6O2S
reactant | hydrogen | [H][H] | H2
reactant | 3-bromo-2-fluorobenzaldehyde | 137.1 mmol, 27.8 g | BrC=1C(=C(C=O)C=CC1)F | C7H4BrFO
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | DMSO | 300 ml | CS(=O)C | C2H6OS
product | Methyl 7-bromo-1-benzothiophene-2-carboxylate | 20.57 g | BrC1=CC=CC=2C=C(SC21)C(=O)OC | C10H7BrO2S
